US08309737B2
Preparation of (1R,2S)-methyl 1-(1H-imidazole-1-carboxamido)-2-vinylcyclopropanecarboxylate BT.
Compound BT was prepared according to Scheme 12. To a suspension of (1R,2S)-methyl 1-amino-2-vinylcyclopropanecarboxylate tosylate salt (25.0 g, 1 eq.) in THF (150 mL) at 50° C. were added CDI (14.24 g, 1.1 eq.) and TEA (12.27 mL, 1.1 eq.). The reaction mixture was then refluxed overnight. The solvent was removed under reduced pressure. The residue was dissolved in EtOAc, and washed with water. The organic layer was dried over sodium sulfate and concentrated. The residue was triturated in Et2O to afford compound BT (15.24 g, purity 80%) as a white solid. 1H NMR (CDCl3, 400 MHz): δ (ppm) 1.63 (dd, J=5.8 and 9.7 Hz, 1H), 1.96 (dd, J=5.8 and 8.4 Hz, 1H), 2.30 (q, J=8.9 Hz, 1H), 3.73 (s, 3H), 5.16 (d, J=10.0 Hz, 1H), 5.28 (d, J=17.0 Hz, 1H), 5.69-5.81 (m, 1H), 7.03 (s, 1H), 7.50 (s, 1H), 8.24 (s, 1H), 8.57 (s, 1H).

reactant | (1R,2S)-methyl 1-amino-2-vinylcyclopropanecarboxylate tosylate salt | 25.0 g, 1 eq. | S(=O)(=O)(O)C1=CC=C(C)C=C1.N[C@]1([C@@H](C1)C=C)C(=O)OC
reactant | CDI | 14.24 g, 1.1 eq. | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | (1R,2S)-methyl 1-(1H-imidazole-1-carboxamido)-2-vinylcyclopropanecarboxylate | N1(C=NC=C1)C(=O)N[C@]1([C@@H](C1)C=C)C(=O)OC | C11H13N3O3
